US07977331B1
A mixture of 8-chloro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (1.18 g, 5.65 mmol) and ethyl 4-(N-cyclohexylhydrazino)benzoate (1.14 g, 4.35 mmol) in acetic acid (11 ml) was stirred at 85° C. for 1 hr. The reaction mixture was allowed to cool to room temperature, and conc. sulfuric acid (0.55 ml) was added to the reaction mixture. The mixture was stirred at 85° C. for 3 hr. The mixture was allowed to cool, and the reaction mixture was poured into water (230 ml) and extracted with a mixed solvent of ethyl acetate (200 ml) and ethanol (30 ml). The organic layer was washed twice with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. Water (10 ml) and ethanol (10 ml) were added to the obtained crude product and the precipitated solid was collected by filtration. The obtained solid was washed with a mixed solvent (10 ml) of water:ethanol (1:1) and dried in vacuo to give ethyl 3-chloro-12-cyclohexyl-6-oxo-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate (0.97 g, yield 39%).

reactant | 8-chloro-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | 5.65 mmol, 1.18 g | ClC=1C=CC2=C(NC(CCC2=O)=O)C1 | C10H8ClNO2
reactant | ethyl 4-(N-cyclohexylhydrazino)benzoate | 4.35 mmol, 1.14 g | C1(CCCCC1)N(N)C1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | sulfuric acid | 0.55 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 230 ml | O | H2O
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
product | ethyl 3-chloro-12-cyclohexyl-6-oxo-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate | 0.97 g, yield 39% | ClC=1C=CC2=C(NC(CC3=C2N(C2=CC=C(C=C32)C(=O)OCC)C3CCCCC3)=O)C1 | C25H25ClN2O3
